US08871753B2
Step F. tert-Butyl [5-(2-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)-2-methyl-4-morpholin-4-ylphenyl]carbamate
tert-Butyl {5-[2-(3-aminophenyl)ethyl]-2-methyl-4-morpholin-4-ylphenyl}carbamate (31 mg, 0.08 mmol) and potassium carbonate (16 mg, 0.11 mmol) were stirred in N,N-dimethylformamide (1 mL) and 2,4,5-trichloropyrimidine (9 μL, 0.08 mmol) was added. The mixture was stirred for 16 hours (or 16 h) and diluted with saturated sodium bicarbonate solution. The mixture was extracted with ethyl acetate and evaporated to give the desired compound (12 mg, 14%). LCMS for C28H34NCl2N3O3 (M+H)+: m/z=558.1.

reactant | tert-Butyl {5-[2-(3-aminophenyl)ethyl]-2-methyl-4-morpholin-4-ylphenyl}carbamate | 0.08 mmol, 31 mg | NC=1C=C(C=CC1)CCC=1C(=CC(=C(C1)NC(OC(C)(C)C)=O)C)N1CCOCC1 | C24H33N3O3
reactant | potassium carbonate | 0.11 mmol, 16 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4,5-trichloropyrimidine | 0.08 mmol, 9 μL | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | tert-Butyl [5-(2-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)-2-methyl-4-morpholin-4-ylphenyl]carbamate | 12 mg, 14% | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)CCC=1C(=CC(=C(C1)NC(OC(C)(C)C)=O)C)N1CCOCC1)Cl | C28H33Cl2N5O3
